US08183237B2
3-Difluoromethoxy-N-(4-methyl-3-piperazin-1-yl-phenyl)-benzenesulfonamide hydrochloride
4-[5-(3-Difluoromethoxy-benzenesulfonylamino)-2-methyl-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (0.097 g, 0.195 mmol) was dissolved in 5 mL of dichloromethane. A solution of 0.293 mL of 2N hydrochloric acid in diethyl ether was added and the mixture stirred for 16 h at room temperature. The solvents were evaporated, the residue purified via reversed phase HPLC and fractions containing the product were combined. The pH was adjusted to 9 with aqueous sodium bicarbonate and the aqueous layer extracted with dichloromethane. The organic phase was then dried over magnesium sulphate, filtered and evaporated to dryness. The residue was treated with a solution 2N hydrochloric acid in diethyl ether and the mixture evaporated to dryness to yield the title compound (0.017 mg).

reactant | 4-[5-(3-Difluoromethoxy-benzenesulfonylamino)-2-methyl-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.195 mmol, 0.097 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)NS(=O)(=O)C1=CC(=CC=C1)OC(F)F)C | C23H29F2N3O5S
reactant | hydrochloric acid | 2N, 0.293 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Difluoromethoxy-N-(4-methyl-3-piperazin-1-yl-phenyl)-benzenesulfonamide hydrochloride | 0.017 mg | Cl.FC(OC=1C=C(C=CC1)S(=O)(=O)NC1=CC(=C(C=C1)C)N1CCNCC1)F | InChI=1S/C18H21F2N3O3S.ClH/c1-13-5-6-14(11-17(13)23-9-7-21-8-10-23)22-27(24,25)16-4-2-3-15(12-16)26-18(19)20;/h2-6,11-12,18,21-22H,7-10H2,1H3;1H
